US04244963
p-Chlorophenylthioacetic Acid
72.0 g. (0.76 mole) of α-chloroacetic acid, 40.0 g. of sodium bicarbonate, and 2 l. of water were placed in a 4 l. beaker and 110 g. (0.76 mole) of p-chlorobenzenethiol and 30 g. of sodium hydroxide in 200 ml. of water were added. After 0.5 to 2 hrs. on a steam bath the mixture was cooled, filtered, and the filtrate treated with 41 ml. of sulfuric acid (previously diluted to 100 ml. with water). The product was collected on a Buchner funnel and purified by dissolving in dilute aqueous sodium hydroxide, then treated with activated charcoal, filtered, and acidified. There was obtained in this manner, 78.5% yield of the final product, m.p. 105.5°-106° C.

reactant | α-chloroacetic acid | 0.76 mole | ClCC(=O)O | C2H3ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | p-chlorobenzenethiol | 0.76 mole | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | p-Chlorophenylthioacetic Acid | 78.5% yield | ClC1=CC=C(C=C1)CC(=S)O | C8H7ClOS
